US04894386
Using a similar procedure to that described in Example 12, part c, except starting from 5-formylindole (prepared as described in the literature from 5-cyanoindole: F. Troxler, Helv. Chim. Acta., 51, 1616, (1968)), and using carbethoxyethylidene triphenylphosphorane, ethyl α-methylindol-5-acrylate was obtained (79%) as a low-melting white solid (mp about 50°); partial NMR(250 MHz, DMSO-d6): 1.28(t, 3H, CH2CH3), 2.13(d, J=1.0 Hz, 3H, CCH3), 4.19(q, 2H, CH2CH3), 6.49(m, 1H, H3 -indole), 11.28(br s, 1H, H1 -indole).

reactant | 5-formylindole | C(=O)C=1C=C2C=CNC2=CC1 | C9H7NO
reactant | 5-cyanoindole | C(#N)C=1C=C2C=CNC2=CC1 | C9H6N2
reactant | carbethoxyethylidene triphenylphosphorane | C(=O)(OCC)CC=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C23H23O2P
product | ethyl α-methylindol-5-acrylate | CC(C(=O)OCC)=CC=1C=C2C=CNC2=CC1 | C14H15NO2
